US06277790B1
N-Methyl-N-(tetrahydro-2H-pyran-4-yl)carbamoyl chloride (No. III.10)
248 g (2.5 mol) of phosgene, 96 g (0.83 mol) of N-methyl-N-(tetrahydro-2H-pyran-4-yl)amine and 84 g (0.83 mol) of triethylamine were reacted by the method of the process described in Intermediate 1.2. Yield 108 g. 1H NMR (250 MHz, in CDCl3): δ=1.60-1.95 (m, 4H), 2.94 and 3.01 (2 s, together 3H), 3.35-3.55 (rm, 2H), 3.95-4.10 (m, 2H), 4.27-4.46 (m, 1H).

reactant | phosgene | 2.5 mol, 248 g | C(=O)(Cl)Cl | CCl2O
reactant | N-methyl-N-(tetrahydro-2H-pyran-4-yl)amine | 0.83 mol, 96 g | CNC1CCOCC1 | C6H13NO
reactant | triethylamine | 0.83 mol, 84 g | C(C)N(CC)CC | C6H15N
product | N-Methyl-N-(tetrahydro-2H-pyran-4-yl)carbamoyl chloride | CN(C(=O)Cl)C1CCOCC1 | C7H12ClNO2
